US07402698B2
A solution of 4-[(3-chlorophenyl)(1-hydroxycyclohexyl)acetyl]piperazine-1-carboxylate (200 mg, 0.46 mmol) in dry tetrahydrofuran (3 mL) under nitrogen was treated dropwise with a solution of borane (1.0 M in tetrahydrofuran, 1.60 mL, 1.60 mmol). The resulting solution was heated at 70° C. for 2 h, after which time the reaction was cooled in an ice bath and was treated dropwise with a 2N aqueous solution of hydrochloric acid (1 mL). The reaction was again heated at 70° C. for 1 h, and was then cooled and treated with methanol (1 mL). After the solvent was removed in vacuo, the resulting residue was dissolved in water (5 mL) and was washed with ethyl acetate (1×4 mL). The aqueous layer was basified with the addition of a 2 N aqueous solution of sodium hydroxide until the pH=10. The product was extracted with ethyl acetate (4×5 mL) and the combined organic extracts were dried over magnesium sulfate and concentrated in vacuo to yield 146 mg (99%) 1-[1-(3-chlorophenyl)-2-piperazin-1-ylethyl]cyclohexanol as a colorless oil. HRMS: calcd for C18H27ClN2O, 322.1812; found (ESI_FT), 323.18977. 1-[1-(3-Chlorophenyl)-2-piperazin-1-ylethyl]cyclohexanol (146 mg) was dissolved in methanol (0.5 mL) and treated with a saturated methanolic solution of hydrochloric acid (0.5 mL) followed by diethyl ether. After crystallizing in the refrigerator for 16 h, the resulting solid was collected, washed with diethyl ether and dried in vacuo to yield 110 mg (60%) 1-[1-(3-chlorophenyl)-2-piperazin-1-ylethyl]cyclohexanol dihydrochloride as a white solid. MS (ESI) m/z 323/325 ([M+H]+); HRMS: calcd for C18H27ClN2O.2.00 HCl, 394.1345; found (ESI_FT), 323.18831.

reactant | 1-[1-(3-Chlorophenyl)-2-piperazin-1-ylethyl]cyclohexanol | 146 mg | ClC=1C=C(C=CC1)C(CN1CCNCC1)C1(CCCCC1)O | C18H27ClN2O
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | 0.5 mL | CO | CH4O
product | 1-[1-(3-chlorophenyl)-2-piperazin-1-ylethyl]cyclohexanol dihydrochloride | 110 mg, 60% | Cl.Cl.ClC=1C=C(C=CC1)C(CN1CCNCC1)C1(CCCCC1)O | InChI=1S/C18H27ClN2O.2ClH/c19-16-6-4-5-15(13-16)17(14-21-11-9-20-10-12-21)18(22)7-2-1-3-8-18;;/h4-6,13,17,20,22H,1-3,7-12,14H2;2*1H
